US04803280
2-(2-Phenyl-1-thioxoethyl)hydrazinecarboxylic acid, methyl ester
A mixture of 86.0 g of 2-(2-phenyl-1-thioxoethyl)thioglycolic acid, 195 ml of 2N sodium hydroxide and 100 ml of water was added dropwise to a suspension of 50 g of methyl hydrazinocarboxylate in 200 ml of water with vigorous stirring. Stirring was continued overnight, then the mixture was extracted twice with ether. The extracts were combined, washed successively with 5% aqueous sodium bicarbonate (twice), water and saturated aqueous sodium chloride, dried and concentrated in vacuo. The dark orange oil was purified by percolation through a bed of hydrous magnesium silicate with dichloromethane. The resulting pale yellow oil was chromatographed on a 70×850 mm dry column of silica gel, eluting with dichloromethane. The resulting oil was crystallized from toluene-hexane, giving 42.6 g of the desired compound as yellow crystals, mp 93.5°-94° C. Proton nuclear magnetic resonance (δ[ppm], CDCl3) 90 MHz: 3.79 (s, 3H, OCH3); 4.11 (s, 2H, CH3CS); 7.33 (bs, 5H, C6H5); 8.65 (bs, 1H, NH); 9.55 (bs, 1H, NH).

reactant | 2-(2-phenyl-1-thioxoethyl)thioglycolic acid | 86.0 g | C1(=CC=CC=C1)CC(=S)C(C(=O)O)S | C10H10O2S2
reactant | sodium hydroxide | 2N, 195 ml | [OH-].[Na+]
reactant | methyl hydrazinocarboxylate | 50 g | N(N)C(=O)OC | C2H6N2O2
solvent | water | 200 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 2-(2-Phenyl-1-thioxoethyl)hydrazinecarboxylic acid, methyl ester | 42.6 g | C1(=CC=CC=C1)CC(=S)NNC(=O)OC | C10H12N2O2S
